US07262212B2
Chloromethyl methyl ether (103.4 ml, 1363 mmol) and N-ethyldiisopropylamine (247.2 ml, 1419 mmol) were added to a solution of 2-methylene-1-butanol (65.1 g, 757 mmol) prepared in Reference Example 205 in THF (750 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 3 days. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in diethyl ether, and the mixture was washed with water and brine, dried over sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure to afford 2-methoxymethoxymethyl-1-butene (98 g, quantitative) as a colorless oil.

reactant | Chloromethyl methyl ether | 1363 mmol, 103.4 ml | COCCl | C2H5ClO
reactant | N-ethyldiisopropylamine | 1419 mmol, 247.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-methylene-1-butanol | 757 mmol, 65.1 g | C=C(CO)CC | C5H10O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
product | 2-methoxymethoxymethyl-1-butene | 98 g | COCOCC(=C)CC | C7H14O2
